US07148226B2
6-Cyclopentyl-6-{2-[4-(2,2-dimethyl-propionyl)-phenyl]-ethyl}-dihydro-pyran-2,4-dione.
To a solution of 6-{2-[4-(2-tert-Butyl-[1,3]dioxolan-2-yl)-phenyl]-ethyl}-6-cyclopentyl-dihydro-pyran-2,4-dione from Example A(34), . (0.173 g) in acetone (1 mL) was added Amberlyst 15 (0.05 g). The reaction mixture was stirred at room temperature overnight, and then filtrated. The solvent was removed under reduced pressure. The residue was purified by flash chromatography (40% EtOAc in Hexanes) to yield the product as a white foam (0.04 g, 95%).

reactant | 6-{2-[4-(2-tert-Butyl-[1,3]dioxolan-2-yl)-phenyl]-ethyl}-6-cyclopentyl-dihydro-pyran-2,4-dione | C(C)(C)(C)C1(OCCO1)C1=CC=C(C=C1)CCC1(CC(CC(O1)=O)=O)C1CCCC1 | C25H34O5
solvent | acetone | 1 mL | CC(=O)C | C3H6O
product | 6-Cyclopentyl-6-{2-[4-(2,2-dimethyl-propionyl)-phenyl]-ethyl}-dihydro-pyran-2,4-dione | 0.04 g, 95% | C1(CCCC1)C1(CC(CC(O1)=O)=O)CCC1=CC=C(C=C1)C(C(C)(C)C)=O | C23H30O4
